US07262185B2
Benzenethiol (13.2 g) was dissolved in THF (100 ml), and to this solution was added triethylamine (17.1 ml) and then 4-nitrobenzyl bromide (21.6 g). The reaction solution was stirred for 30 minutes at room temperature, added to water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was washed with hexane/ethyl acetate (=10/1), to give 1-nitro-4-[(phenylsulfanyl)methyl]benzene (20.7 g).

reactant | Benzenethiol | 13.2 g | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 17.1 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzyl bromide | 21.6 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-nitro-4-[(phenylsulfanyl)methyl]benzene | 20.7 g | [N+](=O)([O-])C1=CC=C(C=C1)CSC1=CC=CC=C1 | C13H11NO2S
